US05646173
A mixture of 1.2 g of (S)-N-[2-(8-methoxy-1H-benz[g]indol-1-yl)-1-methyl-ethyl]-trifluoracetamide, 1.2 g of potassium hydroxide in 3 ml of water and 50 ml of methanol was boiled under reflux for 3 hours. The reaction mixture was subsequently poured into 100 ml of 1N sodium hydroxide solution, extracted twice with 100 ml of diethyl ether each time and once with 100 ml of ethyl acetate, the combined organic phases were washed once with 150 ml and dried over magnesium sulfate. After concentration in a vacuum, the residue was dissolved in 100 ml of anhydrous diethyl ether, filtered and treated while stirring with a solution of 398 mg of fumaric acid in 30 ml of methanol. The mixture was stirred at room temperature for 16 hours and the white crystals were subsequently filtered off. 780 mg (73%) of (S)-2-(8-methoxy-1H-benz[g]indol-1-yl)-1-methyl-ethylamine fumarate (1:0.5) with m.p. 208° were obtained.

reactant | (S)-N-[2-(8-methoxy-1H-benz[g]indol-1-yl)-1-methyl-ethyl]-trifluoracetamide | 1.2 g | COC1=CC=2C(=CC=C3C=CN(C23)C[C@H](C)NC(C(F)(F)F)=O)C=C1 | C18H17F3N2O2
reactant | potassium hydroxide | 1.2 g | [OH-].[K+]
reactant | sodium hydroxide | 1N, 100 ml | [OH-].[Na+]
reactant | water | 3 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | (S)-2-(8-methoxy-1H-benz[g]indol-1-yl)-1-methyl-ethylamine fumarate | 780 mg, 73% | C(\C=C\C(=O)O)(=O)O.COC1=CC=2C(=CC=C3C=CN(C23)C[C@H](C)N)C=C1 | InChI=1S/C16H18N2O.C4H4O4/c1-11(17)10-18-8-7-13-4-3-12-5-6-14(19-2)9-15(12)16(13)18;5-3(6)1-2-4(7)8/h3-9,11H,10,17H2,1-2H3;1-2H,(H,5,6)(H,7,8)/b;2-1+/t11-;/m0./s1
